US07608736B2
4-[[(2-Methoxy-5-chlorobenzoyl)amino]sulfonyl]benzoyl chloride
A mixture of 4-aminosulfonylbenzoic acid (1 mol), 2-methoxy-5-chlorobenzoic acid (1 mol) and thionyl chloride (2.5 mol) in chlorobenzene (700 ml) was heated at 120° C. for 7-9 hours. After the reaction was complete 200 ml of the solvent was removed in vacuo. The mixture was cooled and the precipitate filtered off and washed with heptane to give the title compound, mp. 138-140° C., yield 93% of theory.

reactant | 4-aminosulfonylbenzoic acid | 1 mol | NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
reactant | 2-methoxy-5-chlorobenzoic acid | 1 mol | COC1=C(C(=O)O)C=C(C=C1)Cl | C8H7ClO3
reactant | thionyl chloride | 2.5 mol | S(=O)(Cl)Cl | Cl2OS
solvent | chlorobenzene | 700 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-[[(2-Methoxy-5-chlorobenzoyl)amino]sulfonyl]benzoyl chloride | yield 93% | COC1=C(C(=O)NS(=O)(=O)C2=CC=C(C(=O)Cl)C=C2)C=C(C=C1)Cl | C15H11Cl2NO5S
